US05843957
Preparation of N-[1-(2-phenoxyethyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (500 mg, 1.06 mmol) in DMF (10 ml) were added β-bromophenetole (256 mg, 1.28 mmol) and potassium carbonate (441 mg, 3.19 mmol), and the mixture was stirred at 40°-50° C. for 10 hours. The mixture was allowed to stand for cooling, and then poured into water. The mixture was extracted with ethyl acetate, and the extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (1-3% methanol in chloroform), and crystallized from ether to give the title compound (446 mg, 0.77 mmol) as a colorless crystal.

reactant | N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 1.06 mmol, 500 mg | COC=1C=C(C=CC1)C1=C(C(NC2=NC=CC=C12)=O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C28H30N4O3
reactant | β-bromophenetole | 1.28 mmol, 256 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium carbonate | 3.19 mmol, 441 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-[1-(2-phenoxyethyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.77 mmol, 446 mg | O(C1=CC=CC=C1)CCN1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C36H38N4O4
